US09024019B2
Step I: 6-[(E)-methoxyiminomethyl]-4-[(E)-3-pyridylmethyleneamino]-2,5-dihydro-1,2,4-triazin-3-one (Compound 1.001)
To a solution of 4-amino-6-[(E)-methoxyiminomethyl]-2,5-dihydro-1,2,4-triazin-3-one (2.57 g, 15.0 mmol) in EtOH was added pyridine-3-carbaldehyde (1.41 mL, 15.0 mmol), followed by addition of 1 drop conc. HCl. The mixture was heated to 60° C. for 3 h and then allowed to cool to room temperature. After addition of silica gel, the reaction mixture was evaporated and purified by flash chromatography (5% MeOH/CH2Cl2) to give compound I-001 as a white solid. LCMS (Method H) RT 0.97 min. [M+H]+ 261. M.p. 237-238° C.

reactant | 4-amino-6-[(E)-methoxyiminomethyl]-2,5-dihydro-1,2,4-triazin-3-one | 15.0 mmol, 2.57 g | NN1C(NN=C(C1)/C=N/OC)=O | C5H9N5O2
reactant | pyridine-3-carbaldehyde | 15.0 mmol, 1.41 mL | N1=CC(=CC=C1)C=O | C6H5NO
solvent | EtOH | CCO | C2H6O
catalyst | HCl | 1 drop | Cl | ClH
product | 6-[(E)-methoxyiminomethyl]-4-[(E)-3-pyridylmethyleneamino]-2,5-dihydro-1,2,4-triazin-3-one | CO\N=C\C=1CN(C(NN1)=O)/N=C/C=1C=NC=CC1 | C11H12N6O2
